US04501697
(A) (±)-(cis)-3-Azido-4-hydroxymethyl-1-(4-methoxyphenyl)-2-oxoazetidine
A solution of (cis)-3-azido-1-(4-methoxyphenyl)-4-(2-phenylethenyl)-2-oxoazetidine (6 g, 18.75 mmole) in 1:1 ethanol-dichloromethane (180 ml) was cooled to -78° C. and ozonized until the mixture retained a purple hue. The reaction was purged with nitrogen, and sodium borohydride (2.835 g, 75 mmole) was added as a solid followed by 85 ml of ethanol. The mixture is allowed to stand at -78° C. for five minutes and then stirred at ice-bath temperature for one hour. The reaction was acidified to pH 4 with 3N hydrochloric acid, and the solvents were removed in vacuo. The residue was partitioned between water and ethyl acetate. The aqueous layer was extracted with additional ethyl acetate and the organic extracts were washed with saturated potassium bicarbonate, brine, dried (sodium sulfate), filtered, and concentrated to a solid which was treated with ether. After standing under ether for three hours at 5° C., the white solid was filtered, washed with fresh ether, hexane, and dried under high vacuum. The yield of the title compound was 3.333 g.

reactant | (cis)-3-azido-1-(4-methoxyphenyl)-4-(2-phenylethenyl)-2-oxoazetidine | 18.75 mmole, 6 g | N(=[N+]=[N-])[C@@H]1C(N([C@@H]1C=CC1=CC=CC=C1)C1=CC=C(C=C1)OC)=O | C18H16N4O2
reactant | ethanol dichloromethane | 180 ml | C(C)O.ClCCl
reactant | sodium borohydride | 75 mmole, 2.835 g | [BH4-].[Na+]
reactant | hydrochloric acid | 3N | Cl | ClH
solvent | ethanol | 85 ml | C(C)O | C2H6O
product | (±)-(cis)-3-Azido-4-hydroxymethyl-1-(4-methoxyphenyl)-2-oxoazetidine | N(=[N+]=[N-])[C@@H]1C(N([C@@H]1CO)C1=CC=C(C=C1)OC)=O | C11H12N4O3
